US06462036B1
4′-(1-acetyl-1,4-dihydroindeno[1,2-c]pyrazol-3-yl)acetanilide (1.0 g) was suspended in methanol (40 ml) and a 2N aqueous solution of sodium hydroxide (15 ml) added. The mixture was stirred at ambient temperature for about 20 minutes and then poured onto an aqueous solution of 2N hydrochloric acid (75 ml), a colourless solid precipitated which was collected by filtration and dried in vacuo at about 60° C. to give 4′-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)acetanilide dihydrochloride (0.96 g) m.p. 295-304° C.

reactant | 4′-(1-acetyl-1,4-dihydroindeno[1,2-c]pyrazol-3-yl)acetanilide | 1.0 g | C(C)(=O)N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(NC(C)=O)C=C2 | C20H17N3O2
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 75 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 4′-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)acetanilide dihydrochloride | 0.96 g | Cl.Cl.N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(NC(C)=O)C=C2 | InChI=1S/C18H15N3O.2ClH/c1-11(22)19-14-8-6-12(7-9-14)17-16-10-13-4-2-3-5-15(13)18(16)21-20-17;;/h2-9H,10H2,1H3,(H,19,22)(H,20,21);2*1H
